US05716971
To a mixture of a 1.6M n-butyl lithium hexane solution (35 ml) and diethyl ether (200 ml) was added, at -78° C. under argon atmosphere, a solution of 1,4-diazabicyclo[2,2,21octane (6.35 g) in diethyl ether (200 ml), which was stirred for one hour at temperatures ranging from -70° to -50° C. To the mixture was added 3-fluoropyridine (5.00 g) at -70° C., and the mixture was stirred for one hour at temperatures ranging from -70° to -60° C. To the reaction mixture was added at -70° C. DMF (9.41 g). The mixture was stirred for one hour at temperatures ranging from -70° to -50° C., which was then poured into a saturated aqueous saline solution, followed by extraction with ethyl acetate/chloroform (about 4:1). The extract solution was washed with a saturated aqueous saline solution, dried (anhydrous sodium sulfate), and concentrated. The concentrate was purified by means of a silica gel column chromatography (eluent: ethyl acetate/hexane) to give 3-fluoro-2-formylpyridine (2.75 g, m.p. 52°-53° C.). Reference Example 47 (Production of Compound D-6)

reactant | n-butyl lithium hexane | 1.6M, 35 ml | CCCCCC.C(CCC)[Li]
reactant | 1,4-diazabicyclo[2,2,21octane | 6.35 g | N12CCN(CC1)CC2 | C6H12N2
reactant | 3-fluoropyridine | 5.00 g | FC=1C=NC=CC1 | C5H4FN
reactant | DMF | 9.41 g | CN(C)C=O | C3H7NO
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 3-fluoro-2-formylpyridine | 2.75 g | FC=1C(=NC=CC1)C=O | C6H4FNO
